US08486967B2
f)[8-(4-Chloro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine
Through a suspension of 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-amine (40 mg, 202 μmol), 2-bromo-8-(4-chlorophenyl)-[1,2,4]triazolo[1,5-a]pyridine (74.7 mg, 242 μmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (9.34 mg, 16.1 μmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (8.35 mg, 8.07 μmol) and sodium phenoxide (35.1 mg, 303 μmol) in dry dioxane (3 mL) was bubbled argon for 5 minutes. The mixture was then irradiated at 150° C. for 60 minutes. The crude material was purified by flash chromatography (silica gel, 70 g, 0% to 15% MeOH/NH4OH (9:1) in dichloromethane). The title compound was obtained as an off-white foam (42 mg, 49%).

reactant | 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-amine | 202 μmol, 40 mg | CC1=NSC(=N1)N1CCC(CC1)N | C8H14N4S
reactant | 2-bromo-8-(4-chlorophenyl)-[1,2,4]triazolo[1,5-a]pyridine | 242 μmol, 74.7 mg | BrC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)Cl)=N1 | C12H7BrClN3
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 16.1 μmol, 9.34 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium phenoxide | 303 μmol, 35.1 mg | [O-]C1=CC=CC=C1.[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 8.07 μmol, 8.35 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | [8-(4-Chloro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | ClC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C2=NC(=NS2)C | C20H20ClN7S
